US20010007764A1
To a solution of 0.975 g of Boc-Lys(Cbz)-OMe in 25 ml of dichloromethane at −78° C. under a nitrogen atmosphere was added 6 ml of a 1M diisobutylaluminiumhydride solution in hexane. After 15 min the reaction was completed, the reaction mixture poured into 150 ml of 2% citric acid solution and filtered. The organic layer was separated, washed with water and brine, dried (magnesium sulfate) and concentrated. The residue was coevaporated with toluene to give 0.92 g of Boc-Lys(Cbz)-H. This aldehyde (0.89 g) was dissolved in 1.4 ml of toluene and 0.90 g of 2-(trimethylsilyl)oxazole (prepared according to: Edwards, P. D., Wolanin, D. J., Andisik D. W., and Davis W., J. Med. Chem. 38, 76 (1995)) was added and heated at 80° C. After 60 h the reaction mixture was concentrated, the residue dissolved in 5 ml of tetrahydrofuran, treated with 3 ml of a 3M tetrabutylammonium fluoride in tetrahydrofuran solution and stirred at room temperature for 2h. The mixture was concentrated. dissolved in ethyl acetate, washed with 3% aqueous sodium hydrogencarbonate solution and brine, dried (magnesium sulfate) and evaporated. Purification by column chromatography on silica gel eluting with a gradient of ethyl acetate/dichloromethane=2/1 (v/v) to ethyl acetate afforded an oil that was rechromato-graphed on silica gel eluting with a gradient of ethyl acetate/heptane=1/1 (v/v) to ethyl acetate/heptane=1/3 (v/v) to give 0.22g of the title compound.

reactant | Boc-Lys(Cbz)-OMe | 0.975 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C20H30N2O6
reactant | diisobutylaluminiumhydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | citric acid | 150 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | Boc-Lys(Cbz)-H | 0.92 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C=O)C(=O)OC(C)(C)C | C19H28N2O5
